US08975411B2
Synthesis of tert-butyl 4-pyridin-2-yl-1H-imidazol-2-ylcarbamate
tert-Butyl amino(imino)methylcarbamate (33.4 g; 210 mmol) was dissolved in N,N-dimethylformamide (300 mL), 2-bromo-1-pyridin-2-ylethanone (17.4 g; 87 mmol) was added thereto, and the mixture was stirred for 143 hours at room temperature. To the reaction solution, ethyl acetate (2.0 L) was added, and the mixture was washed with saturated aqueous sodium bicarbonate solution (three times). The organic layer was dried over anhydrous magnesium sulfate and then distilled under reduced pressure. The resulting oily substance was crystallized from diethyl ether and the resulting crystals were collected by filtration and dried to give 6.2 g of the title compound (yield 27%).

reactant | tert-Butyl amino(imino)methylcarbamate | 210 mmol, 33.4 g | NN(C(OC(C)(C)C)=O)C=N | C6H13N3O2
reactant | 2-bromo-1-pyridin-2-ylethanone | 87 mmol, 17.4 g | BrCC(=O)C1=NC=CC=C1 | C7H6BrNO
reactant | ethyl acetate | 2.0 L | C(C)(=O)OCC | C4H8O2
reactant | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | tert-butyl 4-pyridin-2-yl-1H-imidazol-2-ylcarbamate | 6.2 g, yield 27% | N1=C(C=CC=C1)C=1N=C(NC1)NC(OC(C)(C)C)=O | C13H16N4O2
